US04638004
30 g (0.2 mol) of potassium carbonate are introduced into a stirred solution of 18 g (0.1 mol) of 2-hydroxybenzenesulphonamide in 20 ml of acetonitrile. 11 g (0.1 mol) of 1-chloro-2-methoxyiminoethane are then rapidly added dropwise, and the mixture is heated at the boiling point for a further 3 hours. The precipitate which separates out is filtered off under suction, in filtrate is evaporated down, the oily residue is triturated with water, and the product is filtered off under suction and dried on clay. 14 g (57% of theory) of 2-(2-methoxyiminoethoxy)phenylsulphonamide of melting point 103° to 105° C. are obtained.

reactant | potassium carbonate | 0.2 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxybenzenesulphonamide | 0.1 mol, 18 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | 1-chloro-2-methoxyiminoethane | 0.1 mol, 11 g | ClCC=NOC | C3H6ClNO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(2-methoxyiminoethoxy)phenylsulphonamide | 14 g, 57% | CON=CCOC1=C(C=CC=C1)S(=O)(=O)N | C9H12N2O4S
